US07842685B2
(2S)-1-tert-Butyl 2-methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2H-pyrrole-1,2(5H)-dicarboxylate (0.618 g, 1.1 mmol) and 10% palladium on carbon, 50% water (0.58 g) were combined in a flask and treated with nitrogen and 10 mL THF. The reaction mixture was stirred rapidly under H2 balloon for 48 h. The reaction mixture was flushed with nitrogen, filtered, rinsing with DCM and concentrated in vacuo. Purification by silica gel chromatography, 40 g, 0-30% EA/hexanes gave (2S,4R)-1-tert-butyl 2-methyl 4-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)pyrrolidine-1,2-dicarboxylate as a yellow foam. MS (ESI) m/z: Calculated: 573.2; Observed: 573.7 (M++1).

reactant | (2S)-1-tert-Butyl 2-methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-2H-pyrrole-1,2(5H)-dicarboxylate | 1.1 mmol, 0.618 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1=C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C32H30FN3O4S
reactant | water | 0.58 g | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-1-tert-butyl 2-methyl 4-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)pyrrolidine-1,2-dicarboxylate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C32H32FN3O4S
